US06403610B1
4 cm3 of triethylamine, followed by 3.15 g of di-tert-butyl dicarbonate, were added, with stirring at a temperature in the region of 20° C., to a suspension of 5 g of (3R,4R)-4-[3-(6-methoxyquinolin-4-yl)propyl]-3-vinylpiperidine hydrochloride in 50 cm3 of dichloromethane. After 45 minutes, the solution obtained was washed with 2 times 30 cm3 of water, dried over magnesium sulfate, and then concentrated under reduced pressure (5 kPa) at a temperature in the region of 40° C. 6 g of (3R,4R)-4-[3-(6-methoxyquinolin-4-yl)propyl]-1-(tert-butyloxycarbonyl)-3-vinylpiperidine were obtained in the form of an oil with a brown color.

reactant | triethylamine | 4 cm3 | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 3.15 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | (3R,4R)-4-[3-(6-methoxyquinolin-4-yl)propyl]-3-vinylpiperidine hydrochloride | 5 g | Cl.COC=1C=C2C(=CC=NC2=CC1)CCC[C@H]1[C@H](CNCC1)C=C
solvent | dichloromethane | 50 cm3 | ClCCl | CH2Cl2
product | (3R,4R)-4-[3-(6-methoxyquinolin-4-yl)propyl]-1-(tert-butyloxycarbonyl)-3-vinylpiperidine | 6 g | COC=1C=C2C(=CC=NC2=CC1)CCC[C@H]1[C@H](CN(CC1)C(=O)OC(C)(C)C)C=C | C25H34N2O3
